US09238644B2
(b) 2-(2-Ethynylphenyl)propanamide (K7)
A 1.0 M solution of TBAF in THF (45.6 mL, 45.6 mmol) was added to a solution of 2-(2-((trimethylsilyl)ethynyl)phenyl)propanamide I15 (9.33 g, 38.0 mmol) in THF (200 mL) and the mixture was stirred for 10 minutes. The reaction mixture was diluted with sat. aq. NaHCO3 (200 mL), and the aqueous layer was extracted with DCM (3×150 mL). The combined organics were adsorbed onto silica and purified by silica gel column chromatography (Biotage Isolera, 120 g SiO2 cartridge, 0-80% EtOAc in petroleum benzine 40-60° C.) to yield the title compound K7 as a tan solid (5.11 g, 76%). LCMS-D: rt 3.03 min; m/z 174 [M+H]+.

reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 2-(2-((trimethylsilyl)ethynyl)phenyl)propanamide | C[Si](C)(C)C#CC1=C(C=CC=C1)C(C(=O)N)C | C14H19NOSi
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 45.6 mmol, 45.6 mL | C1CCOC1 | C4H8O
product | 2-(2-Ethynylphenyl)propanamide | C(#C)C1=C(C=CC=C1)C(C(=O)N)C | C11H11NO
